US07202363B2
4-amino-N-(2,2-dimethoxyethyl)-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide
4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxylic acid (1.0 g, 2.1 mmol) and 2,2-dimethoxy-1-ethanamine (252 uL, 2.3 mmol) were reacted according to General Procedure D. MP-carbonate resin (5 g) was added, and the mixture was shaken for 2 hours. The resin was filtered from the mixture and the filtrate was concentrated in vacuo to yield 1.5 g crude material. Isopropyl alcohol (35 mL) was added and the crude product was triturated and filtered to yield the title compound (830 mg, 71% yield): 1H NMR (DMSO, 400 MHz) δ 9.48 (s, 1H), 8.56 (s, 2H), 7.98 (d, 1H), 7.69 (d, 1H), 7.56–7.58 (m, 2H), 7.31–7.33 (m, 2H), 7.04–7.17 (m, 3H), 4.54 (t, 1H), 4.02 (s, 3H), 3.89 (s, 3H), 3.37 (t, 2H), 3.31 (s, 6H), 2.51 (t, 2H); RP-HPLC (Conditions j) Rt 12.2 min. MS: 560.0 MH+.

reactant | 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxylic acid | 2.1 mmol, 1.0 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)O | C25H20N4O4S
reactant | 2,2-dimethoxy-1-ethanamine | 2.3 mmol, 252 uL | COC(CN)OC | C4H11NO2
reactant | MP-carbonate resin | 5 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | Isopropyl alcohol | 35 mL | C(C)(C)O | C3H8O
product | 4-amino-N-(2,2-dimethoxyethyl)-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide | 830 mg, 71% yield | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NCC(OC)OC | C29H29N5O5S
